US07122666B2
(8aS)-2-Methylidene-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
In a similar manner to the procedures described in Preparative Examples 5(i)′ and 5(ii) above, reduction, methanesulfonylation and cyanogenation were conducted, using (S)-1-benzyloxycarbonyl-4-methylideneproline methyl ester [obtained as described in Preparative Example 8(i)′ above], instead of methyl 1-benzyloxycarbonylindoline-2-carboxylate, to give the title compound as a colorless oil (yield: 61%).

reactant | (S)-1-benzyloxycarbonyl-4-methylideneproline methyl ester | COC([C@H]1N(CC(C1)=C)C(=O)OCC1=CC=CC=C1)=O | C15H17NO4
reactant | methyl 1-benzyloxycarbonylindoline-2-carboxylate | C(C1=CC=CC=C1)OC(=O)N1C(CC2=CC=CC=C12)C(=O)OC | C18H17NO4
product | (8aS)-2-Methylidene-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | yield: 61% | C=C1C[C@H]2CC(CCN2C1)=O | C9H13NO
